US06864379B2
1-(4-Fluorophenyl)-1-formyl-1,3-dihydro-5-isobenzofurancarbonitrile.
A solution of 1-(4-fluorophenyl)-1,3-dihydro-5-isobenzofurancarbonitrile (2.4 g, 10 mmol) in THF (15 mL) was added to a solution of LDA (11 mmol) in THF (25 mL) at −78° C. under an atmosphere of nitrogen. The mixture was allowed to warm to −40° C. during 45 min. Freshly distilled methyl formate (0.75 mL, 12 mmol) was added at this temperature, and stirring was continued for 1 h while warming to 0° C. Then the mixture was poured into ice/saturated ammonium chloride solution, and extracted with Et2O (3×100 mL). The organic extracts were washed with brine, dried and evaporated. Silica gel chromatography (heptane, EtOAc 4:1) of the residue gave the product (1.3 g, 50%). 1H NMR (CDCl3) δ 5.35 (2H, s); 7.10 (2H, t, J=9.0 Hz); 7.50 (1H, dd, J=5.2 and 9.0 Hz); 7.57 (1H, s); 7.60 (1H, d, J=8.0 Hz); 7.70 (1H, d, J=8.0 Hz).

reactant | 1-(4-fluorophenyl)-1,3-dihydro-5-isobenzofurancarbonitrile | 10 mmol, 2.4 g | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)C#N | C15H10FNO
reactant | LDA | 11 mmol | [Li+].CC(C)[N-]C(C)C
reactant | methyl formate | 12 mmol, 0.75 mL | C(=O)OC | C2H4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluorophenyl)-1-formyl-1,3-dihydro-5-isobenzofurancarbonitrile | 1.3 g, 50% | FC1=CC=C(C=C1)C1(OCC2=CC(=CC=C12)C#N)C=O | C16H10FNO2
